US08207373B2
Stage 1: (4-benzyl-phenyl)-(2-methyl-6-nitro-phenyl)-amine
The product (1.01 g) is obtained according to the method of stage 1 of Example 4, by using 1.13 g of 2-fluoro-3-methyl-nitrobenzene and 2 g of 4-benzyl-aniline in the presence of 1.31 g of potassium tert-butanolate in 30 mL of DMSO.

reactant | 2-fluoro-3-methyl-nitrobenzene | 1.13 g | FC1=C(C=CC=C1C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-benzyl-aniline | 2 g | C(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C13H13N
reactant | potassium tert-butanolate | 1.31 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | (4-benzyl-phenyl)-(2-methyl-6-nitro-phenyl)-amine | C(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=C(C=CC=C1[N+](=O)[O-])C | C20H18N2O2
